* Sweep VBIAS2 for L=2.0 devices
.lib /home/sai/opamp_project/models/sky130_fd_pr/models/sky130.lib.spice tt

VDD vdd 0 1.8
VSS vss 0 0
VIP  inp  0 DC 0.9
VIN  inn  0 DC 0.9
VBIAS  nbias  0 DC 0.89
VBIAS2 nbias2 0 DC 0.5

XM1 d1 inp  tail vss sky130_fd_pr__nfet_01v8 L=0.2 W=2
XM2 d2 inn  tail vss sky130_fd_pr__nfet_01v8 L=0.2 W=2
XM3 d1 d1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.2 W=5
XM4 d2 d1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.2 W=5
XM5 tail nbias vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=4

XM6 vout d2 vss vss sky130_fd_pr__nfet_01v8 L=2.0 W=4
XM7 vout nbias2 vdd vdd sky130_fd_pr__pfet_01v8 L=2.0 W=8

.dc VBIAS2 0.2 1.2 0.01

.control
run
plot v(vout)
.endc

.end

