* Two-Stage Op-Amp with Miller Compensation - Cc=2pF
.lib /home/sai/opamp_project/models/sky130_fd_pr/models/sky130.lib.spice tt

VDD vdd 0 1.8
VSS vss 0 0
VIP  inp  0 DC 0.9 AC 0.5
VIN  inn  0 DC 0.9 AC -0.5
VBIAS  nbias  0 DC 0.89
VBIAS2 nbias2 0 DC 0.401

XM1 d1 inp  tail vss sky130_fd_pr__nfet_01v8 L=0.2 W=2
XM2 d2 inn  tail vss sky130_fd_pr__nfet_01v8 L=0.2 W=2
XM3 d1 d1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.2 W=5
XM4 d2 d1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.2 W=5
XM5 tail nbias vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=4

XM6 vout d2 vss vss sky130_fd_pr__nfet_01v8 L=2.0 W=6
XM7 vout nbias2 vdd vdd sky130_fd_pr__pfet_01v8 L=2.0 W=12

Cc  d2  comp_mid  2p
Rz  comp_mid  vout  5k

CL  vout  0  2p

.op
.ac dec 20 1 1G

.control
run
setplot op1
print v(vout)
setplot ac1
plot vdb(vout)
plot vp(vout)
meas ac gain_db find vdb(vout) at=1
meas ac phase_at_unity find vp(vout) when vdb(vout)=0
.endc

.end
